US06498165B1
2-[(S)-1-(3-(1-ethylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine
2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine (27.4 mg) was dissolved in THF (1 mL), and triethylamine (53 μL) was added. A solution of 2.0M ethylamine in THF (76 μL) was added followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26.9 mg) and 4-dimethylaminopyridine (˜1 mg). Stirred at room temperature for 2 h then another portion of 2.0M ethylamine in THF (76 μL) was added along with more 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (27.4 mg). 1.5 h later the mixture was concentrated under reduced pressure then purified by silica gel chromatography (98:2 CH2Cl2:MeOH) to yield 18.2 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 8.48 (br s, 1H); 8.39 (d, J=5.5 Hz, 1H); 7.90 (m, 1H); 7.82 (d, J=7.5 Hz, 1H); 7.64 (m, 1H); 7.58 (d, J=5.8 Hz, 1H); 7.44 (t, J=7.7 Hz, 1H); 7.34 (m, 3H); 6.79 (d, J=5.5 Hz, 1H); 6.11 (br s, 1H); 5.81 (br s, 1H); 5.25 (br s, 1H); 3.49 (m, 2H); 1.65 (d, J=6.9 Hz, 3H); 1.25 (t, J=7.3 Hz, 3H). Mass Spectrum (ESI): m/e 387.1 (M+1).

reactant | 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine | 27.4 mg | C(=O)(O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H17N5O2
reactant | triethylamine | 53 μL | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 2.0M | C(C)N | C2H7N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 26.9 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethylamine | 2.0M | C(C)N | C2H7N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 27.4 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 76 μL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 76 μL | C1CCOC1 | C4H8O
product | 2-[(S)-1-(3-(1-ethylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine | 18.2 mg | C(C)NC(=O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C22H22N6O
